US05726305
a) 4,5-Dichloro-2-nitrotoluene
3,4-Dichlorotoluene was nitrated with concentrated sulfuric acid and fuming nitric acid (d=1.52).

reactant | 3,4-Dichlorotoluene | ClC=1C=C(C=CC1Cl)C | C7H6Cl2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4,5-Dichloro-2-nitrotoluene | ClC1=CC(=C(C=C1Cl)C)[N+](=O)[O-] | C7H5Cl2NO2
